US05708001
To magnesium turnings (30.2 g, 1.24 mol) in THF (30 mL) is added 1,2-dibromoethane (0.7 mL) followed by dropwise addition, over 1 h, of 4-bromotrifluoromethylbenzene (200 g, 0.89 mol) dissolved in THF (700 mL). The reaction is heated occasionally to maintain a gentle reflux and is stirred 45 min after the addition is complete. The dark reaction mixture is then cooled in an ice bath and acetone (103 g, 1.78 mol) added dropwise. After stirring an additional 1.5 h the reaction is carefully quenched with aqueous saturated NaHSO4, ethyl acetate added, the organics dried over MgSO4, concentrated and purified by silica gel chromatography (9:1 to 3:2, hexane to ethyl acetate) to give 4-trifluoromethyl-α,α-dimethylbenzyl alcohol of sufficient purity to carry to the next step; yield: 114 g (63%).

reactant | magnesium | 1.24 mol, 30.2 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.7 mL | BrCCBr | C2H4Br2
reactant | 4-bromotrifluoromethylbenzene | 0.89 mol, 200 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | acetone | 1.78 mol, 103 g | CC(=O)C | C3H6O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 4-trifluoromethyl-α,α-dimethylbenzyl alcohol | FC(C1=CC=C(C(C)(C)O)C=C1)(F)F | C10H11F3O
